US04837225
N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-N'-(4-chlorophenyl)urea
7.7 g (0.05 mol) of 4-chlorophenyl isocyanate, dissolved in 10 ml of tetrahydrofura, are added dropwise, over the coruse of 30 minutes, to 6.9 g (0.05 mol) of 1-(2-aminoethyl)-2,5-dimethylpyrrole, dissolved in 10 ml of tetrahydrofuran, a 20° C. The mixture is then left to stir at 20° C. for 60 minutes. After addition of diethyl ether to the reaction mixture the product crystallizes out, and is filtered off with suction and recrystallized from isopropanol. Yield: 8.4 g (58% of theory), Melting point: 175°-177° C. Elemental analysis: C15H18ClN3 0 (291.83) calculated: C 61.7 H 6.2 CL 12.2 N 14.4 0 5.5 found: C 61.0 H 6.5 Cl 12.5 N 14.6 0 5.8

reactant | 4-chlorophenyl isocyanate | 0.05 mol, 7.7 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 1-(2-aminoethyl)-2,5-dimethylpyrrole | 0.05 mol, 6.9 g | NCCN1C(=CC=C1C)C | C8H14N2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-N'-(4-chlorophenyl)urea | CC=1N(C(=CC1)C)CCNC(=O)NC1=CC=C(C=C1)Cl | C15H18ClN3O
